US07176204B2
Ethyl 2-[[3-[[[4-(2-pyridyloxy)phenyl]carbonylamino]methyl]-4-methoxyphenyl]methyl]butyrate
To a solution of ethyl 2-[(3-aminomethyl-4-methoxyphenyl)-methyl]butyrate hydrochloride (302 mg, 1.00 mmol) [Japanese Patent Application No. 2000-158424] and triethylamine (390 μL, 2.80 mmol) in 10 mL of dehydrated methylene chloride was added ethyl chlorocarbonate (105 μL, 1.10 mmol) under cooling with ice and stirring, and the mixture was stirred for 20 minutes under cooling with ice. Next, 4-(2-pyridyloxy)benzoic acid (237 mg, 1.10 mmol) was added and the mixture was stirred for 1 hour under cooling with ice and for 5 hours at room temperature. Methylene chloride was added to the reaction mixture, which was washed with water, brine, then dried over anhydrous sodium sulfate and concentrated. The residue was purified by silica gel chromatography (eluate n-hexane:ethyl acetate=3:2 v/v) to obtain 317 mg (68%) of the title compound as a colorless oil.

reactant | ethyl 2-[(3-aminomethyl-4-methoxyphenyl)-methyl]butyrate hydrochloride | 1.00 mmol, 302 mg | Cl.NCC=1C=C(C=CC1OC)CC(C(=O)OCC)CC
reactant | triethylamine | 2.80 mmol, 390 μL | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 1.10 mmol, 105 μL | C(OCC)(=O)Cl | C3H5ClO2
reactant | 4-(2-pyridyloxy)benzoic acid | 1.10 mmol, 237 mg | N1=C(C=CC=C1)OC1=CC=C(C(=O)O)C=C1 | C12H9NO3
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | Ethyl 2-[[3-[[[4-(2-pyridyloxy)phenyl]carbonylamino]methyl]-4-methoxyphenyl]methyl]butyrate | 317 mg, 68% | N1=C(C=CC=C1)OC1=CC=C(C=C1)C(=O)NCC=1C=C(C=CC1OC)CC(C(=O)OCC)CC | C27H30N2O5
